US08802864B2
d) 1,1-dimethylethyl (3S)-3-({4-[4-(1-benzofuran-5-yl)phenyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-1-pyrrolidinecarboxylate
In a sealed pressure tube, a mixture of 1,1-dimethylethyl (3S)-3-{[4-(4-bromophenyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl]methyl}-1-pyrrolidinecarboxylate (2.5 g, 5.91 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-benzofuran (1.514 g, 6.20 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (0.241 g, 0.295 mmol), and sodium bicarbonate (1.488 g, 17.72 mmol) in 1,4-dioxane (30 mL) and water (15 mL) was stirred at 100° C. for 24 h. The reaction was cooled to room temperature. The reaction was diluted with ethyl acetate (300 mL) and water (100 mL), and the layers were separated. The aqueous layer was acidified to pH˜6 using a 1N aq HCl solution and then extracted with ethyl acetate (3×100 mL). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo. Purification of the residue by silica gel chromatography (Analogix IF280, SF40-115g, Solvent A: ethyl acetate; Solvent B: 10% methanol/dichloromethane; Gradient: 100% A for 10 min, then 0-50% B/A over 20 min) provided the title compound as a tan solid (2.6 g, 96%). MS(ES)+ m/e 461.4 [M+H]+.

reactant | 1,1-dimethylethyl (3S)-3-{[4-(4-bromophenyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl]methyl}-1-pyrrolidinecarboxylate | 5.91 mmol, 2.5 g | BrC1=CC=C(C=C1)N1C(=NNC1=O)C[C@H]1CN(CC1)C(=O)OC(C)(C)C | C18H23BrN4O3
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-benzofuran | 6.20 mmol, 1.514 g | CC1(OB(OC1(C)C)C=1C=CC2=C(C=CO2)C1)C | C14H17BO3
reactant | sodium bicarbonate | 17.72 mmol, 1.488 g | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 15 mL | O | H2O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
product | 1,1-dimethylethyl (3S)-3-({4-[4-(1-benzofuran-5-yl)phenyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-1-pyrrolidinecarboxylate | 2.6 g, 96% | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(=NNC2=O)C[C@H]2CN(CC2)C(=O)OC(C)(C)C | C26H28N4O4
